US04221919
145 grams of 3-chloro-4-methoxybenzyl chloride was added to a solution comprising 40.6 grams of sodium cyanide in 230 ml of dimethylsulfoxide over a 40 minute time period at a temperature within the range of 40°-45° C. The reaction mixture was then stirred at this temperature for 6 hours and poured into 800 ml of water, the separated oil being extracted with 3 200 ml portions of ether. The ethereal solution was next washed with a dilute (1:1) hydrochloric acid solution in two 100 ml portions, with two 100 ml portions of water and dried over magnesium sulfate. The ether was then driven off, yielding 136.5 grams of crystalline 3-chloro-4-methoxy-phenylacetonitrile, m.p. 54°-56° C., which was refluxed for 16 hours with 420 ml of 48% hydrobromic acid. Following, the reaction mixture was cooled to -5° C. and, after two hours at this temperature, the precipitate filtered, triturated with ether in three 400 ml portions, dried over magnesium sulfate and boiled down to yield 137 grams (97.7%) of 3-chloro-4-hydroxyphenyl acetic acid, m.p. 101°-104° C.

reactant | 3-chloro-4-methoxybenzyl chloride | 145 grams | ClC=1C=C(CCl)C=CC1OC | C8H8Cl2O
reactant | sodium cyanide | 40.6 grams | [C-]#N.[Na+]
reactant | water | 800 ml | O | H2O
solvent | dimethylsulfoxide | 230 ml | CS(=O)C | C2H6OS
product | 3-chloro-4-methoxy-phenylacetonitrile | 136.5 grams | ClC=1C=C(C=CC1OC)CC#N | C9H8ClNO
